US09102664B2
Preparation of (3S,5R)-5-(2,4-difluorophenyl)-5-(iodomethyl)tetrahydro furan-3-carboxylic acid (Formula-7)
Sodium hydroxide solution (prepared from 17.7 g of sodium hydroxide and 390 ml of water) was added to a pre-cooled solution of hydrogen peroxide (30 ml), water (65 ml) and tetrahydrofuran (390 ml) at 0-10° C., followed by a solution of (R)-3-((3S,5R)-5-(2,4-difluorophenyl)-5-(iodomethyl)tetrahydrofuran-3-carbonyl)-4-phenyloxazolidin-2-one compound of formula-6 (130 g) in tetrahydrofuran (390 ml) at 0-10° C. and the reaction mixture was stirred for 30 minutes at 0-10° C. Further temperature of the reaction mixture was raised to 25-30° C. and then stirred for 2 hours at 25-30° C. After completion of the reaction, the reaction mixture was quenched with 10% sodium sulphite solution and the reaction mixture was washed with toluene. The pH of aqueous layer was adjusted to 10.5 using 50% HCl and then washed with dichloromethane. Further pH of aqueous layer was again adjusted to 4.5 using 50% HCl. The aqueous layer was extracted with methyl tertiary butyl ether and distilled off the solvent from methyl tert.butyl ether layer and then co-distilled with cyclohexane. Cyclohexane (190 ml) was added to the obtained compound and stirred for 2 hours at 25-30° C. Filtered the solid, washed with cyclohexane and then dried to get title compound. Yield: 65 g; MR: 80-87° C.

reactant | Sodium hydroxide | 390 ml, 17.7 g | [OH-].[Na+]
reactant | hydrogen peroxide | 30 ml | OO | H2O2
reactant | water | 65 ml | O | H2O
reactant | (R)-3-((3S,5R)-5-(2,4-difluorophenyl)-5-(iodomethyl)tetrahydrofuran-3-carbonyl)-4-phenyloxazolidin-2-one | FC1=C(C=CC(=C1)F)[C@]1(C[C@@H](CO1)C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)CI | C21H18F2INO4
solvent | tetrahydrofuran | 390 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 390 ml | O1CCCC1 | C4H8O
product | (3S,5R)-5-(2,4-difluorophenyl)-5-(iodomethyl)tetrahydro furan-3-carboxylic acid | FC1=C(C=CC(=C1)F)[C@]1(C[C@@H](CO1)C(=O)O)CI | C12H11F2IO3
